US07777047B2
4-[3-(benzylthio)-3-methyl-4-nitrobutyl]morpholine
A mixture of 3-buten-2-one (2.00 ml) and morpholine (2.35 ml) was stirred at room temperature for 30 min (exothermic reaction). Benzylmercaptan (3.20 ml), nitromethane (13.2 ml), ethylenediamine (1.8 ml) and acetonitrile (10 ml) were added to the reaction mixture, and the mixture was stirred overnight at room temperature. The reaction mixture was concentrated, and the obtained residue was subjected to silica gel column chromatography to give the title compound (3.27 g, yield 41%) as a yellow oil from a fraction eluted with ethyl acetate.

reactant | 3-buten-2-one | 2.00 ml | CC(C=C)=O | C4H6O
reactant | morpholine | 2.35 ml | N1CCOCC1 | C4H9NO
reactant | Benzylmercaptan | 3.20 ml | C(C1=CC=CC=C1)S | C7H8S
reactant | ethylenediamine | 1.8 ml | C(CN)N | C2H8N2
reactant | nitromethane | 13.2 ml | [N+](=O)([O-])C | CH3NO2
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
product | 4-[3-(benzylthio)-3-methyl-4-nitrobutyl]morpholine | 3.27 g, yield 41% | C(C1=CC=CC=C1)SC(CCN1CCOCC1)(C[N+](=O)[O-])C | C16H24N2O3S
